US07579350B2
3-Chlorocarbonyl-benzoic acid methyl ester (25).
SOCl2 (15 mL) and dry DMF (2 drops) were added to monomethyl isophthalate (5 g, 17.7 mmol), and the reaction mixture was refluxed at 80° C. for 6 hr. The SOCl2 was removed in vacuo, and a colorless oil was obtained and used directly in the next step.

reactant | SOCl2 | 15 mL | O=S(Cl)Cl | Cl2OS
reactant | monomethyl isophthalate | 17.7 mmol, 5 g | C(C1=CC(C(=O)[O-])=CC=C1)(=O)OC
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
product | 3-Chlorocarbonyl-benzoic acid methyl ester | COC(C1=CC(=CC=C1)C(=O)Cl)=O | C9H7ClO3
